data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_462384_1,[C:1]([C:5](=[C:2]([N:3]([H:8])[H:11])[N:4]([H:9])[H:10])[H:14])([O:6][H:7])([H:12])[H:13]>>[C:1](=[C:5]([C:2]([N:3]([H:8])[H:11])([N:4]([H:9])[H:10])[O:6][H:7])[H:14])([H:12])[H:13],46.97715999999431
MR_582011_1,[C:1](\[N:3]([H:11])[H:12])(=[C:6](\[C:7]([C:2]([N:4]([H:13])[H:14])=[O:9])([N:5]([H:15])[H:16])[H:18])[H:17])[O:8][H:10]>>[C:1]([C:2]([N:4]([H:13])[H:14])=[O:9])([N:3]([H:11])[H:12])(/[C:6](=[C:7](\[N:5]([H:15])[H:16])[H:18])[H:17])[O:8][H:10],70.26996000000423
MR_442888_0,[C:1]([N:2]([C:3]([N:5]([H:11])[H:12])=[O:8])/[N:6]=[N:7]/[N:4]([H:9])[H:10])([H:13])([H:14])[H:15]>>[C:1](/[N:2]=[N:6]/[N:7]([C:3]([N:5]([H:11])[H:12])=[O:8])[N:4]([H:9])[H:10])([H:13])([H:14])[H:15],51.71101999999166
MR_110316_0,[N:1]([C:2]([O:4][H:7])=[O:5])([C:3](=[O:6])[H:9])[H:8]>>[N:1](=[C:2](\[O:4][H:7])[O:5][C:3](=[O:6])[H:9])\[H:8],47.47790499997848
MR_145956_0,[C:1]([N:4]([H:9])[H:10])([C:5](/[C:3](=[N:2]\[H:8])[O:6][H:7])([H:13])[H:14])([H:11])[H:12]>>[C:1]([N:2]([C:3](=[C:5]([H:13])[H:14])[O:6][H:7])[H:8])([N:4]([H:9])[H:10])([H:11])[H:12],72.64943999998906
MR_462268_1,[C:1]([C:4]1(/[C:6](=[N:2]/[N:5]([H:9])[H:10])[H:12])/[C:3](=[N:8]/[H:11])[O:7]1)([H:13])([H:14])[H:15]>>[C:1]([c:4]1[c:6]([H:12])[n:2]([N:5]([H:9])[H:10])/[c:3](=[N:8]/[H:11])[o:7]1)([H:13])([H:14])[H:15],52.32910750000059
MR_102608_1,[C:1]([C:4]([N:3](/[C:5]([C:2]([H:17])([H:18])[H:19])=[N:8]/[N:7]([H:12])[H:13])[N:6]([H:10])[H:11])=[O:9])([H:14])([H:15])[H:16]>>[C:1]([C:4]([N:8](/[C:5]([C:2]([H:17])([H:18])[H:19])=[N:3]/[N:6]([H:10])[H:11])[N:7]([H:12])[H:13])=[O:9])([H:14])([H:15])[H:16],33.58254499999802
MR_636696_1,[C:1]([C@:4]1([O:9][H:10])[C@@:7]2([H:14])[N:3]([H:11])[C:5]2([C:2]([H:19])([H:20])[H:21])[C@@:8]1([N:6]([H:12])[H:13])[H:15])([H:16])([H:17])[H:18]>>[C:1](/[C:4](=[C:7](/[N:3](/[C:5]([C:2]([H:19])([H:20])[H:21])=[C:8](\[N:6]([H:12])[H:13])[H:15])[H:11])[H:14])[O:9][H:10])([H:16])([H:17])[H:18],54.60379499996464
MR_332209_1,[C:1]([O:5][C:2](=[O:4])[O:7][O:3][O:6][H:8])([H:9])([H:10])[H:11]>>[C:1]([O:5][C:2]([O:4][O:3][O:6][H:8])=[O:7])([H:9])([H:10])[H:11],38.859192500016064
MR_300538_1,[C@:1](/[C:4](=[N:7]/[N:3]([H:10])[H:11])[H:12])([O:5][C:2]([H:13])([H:14])[H:15])([O:6][H:8])[H:9]>>[C:1](=[C:4](/[N:7]([N:3]([H:10])[H:11])[O:5][C:2]([H:13])([H:14])[H:15])[H:12])(\[O:6][H:8])[H:9],64.01503999999491
MR_638457_1,[C@@:1]12([N:8]([H:11])[H:12])[C:2]([H:13])([H:14])[C@@:7]([C:4]([H:18])([H:19])[H:20])([H:10])[C@:6]1([C:3]([H:15])([H:16])[H:17])[N:5]2[H:9]>>[C:1]1([N:8]([H:11])[H:12])([H:10])[C:2]([H:13])([H:14])[C:7]([C:4]([H:18])([H:19])[H:20])=[C:6]([C:3]([H:15])([H:16])[H:17])[N:5]1[H:9],29.81001499999905
MR_39117_2,[C:1](/[C:4]([C:2]([H:16])([H:17])[H:18])=[C:8](/[C:3]([H:19])([H:20])[H:21])[H:15])(/[C:7](=[C:6](\[N:5]([H:9])[H:10])[H:13])[H:14])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[C:4]([C:2]([H:16])([H:17])[H:18])([C:8](=[C:3]([H:20])[H:21])[H:15])[C:7]1([C:6]([N:5]([H:9])[H:10])([H:13])[H:19])[H:14],62.95017250000825
MR_200667_1,[C:1]([N:3]([H:9])[H:10])([N:4]([H:11])[H:12])([N:7]=[C:2]([N:5]([H:14])[H:15])[N:6]([H:13])[H:16])[H:8]>>[C:1](\[N:3]([H:9])[H:10])(=[N:7]\[C:2]([N:4]([H:11])[H:12])([N:5]([H:14])[H:15])[N:6]([H:13])[H:16])[H:8],59.06343750004794
MR_349114_0,[C:1](/[C:7](=[C:5](\[N:3]([N:2]([C:4]([O:8][H:10])=[O:9])[H:11])[H:12])[N:6]([H:13])[H:14])[H:15])([H:16])([H:17])[H:18]>>[C:1]([C:7]([C:4]([O:8][H:10])=[O:9])([C:5]1([N:6]([H:13])[H:14])[N:2]([H:11])[N:3]1[H:12])[H:15])([H:16])([H:17])[H:18],63.76843249997549
MR_245108_0,[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([C:5](=[C:6]([H:17])[H:18])[H:13])([O:8][H:9])[H:12])[H:11])(=[O:7])[H:10]>>[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4](=[O:8])[H:12])[H:11])([C:5](=[C:6]([H:17])[H:18])[H:13])([O:7][H:9])[H:10],59.47884249999788
MR_227784_0,[C:1]([N:3]([H:11])[H:12])(/[C:4](=[N:6]/[N:2]([H:9])[H:10])[H:13])([O:5][H:7])[H:8]>>[C:1]1([N:3]([H:11])[H:12])([H:8])[C:4]([O:5][H:7])([H:13])[N:6]1[N:2]([H:9])[H:10],52.164075000024894
MR_369314_0,[C:1]1([H:13])([H:14])[C:4](=[O:9])[N:3]([C:2]([H:15])([H:16])[H:17])[C:5]([N:7]([H:11])[H:12])=[C:6]1[O:8][H:10]>>[C:1]1([H:13])([H:14])[C:4](=[O:9])[C:6]1(/[C:5](=[N:3]/[C:2]([H:15])([H:16])[H:17])[N:7]([H:11])[H:12])[O:8][H:10],63.32918249997874
MR_473775_1,[C:1](/[C:2]([N:7]=[C:3]([N:5]([H:14])[H:15])[N:6]([H:12])[H:13])=[N:8]\[H:16])([N:4]([H:10])[H:11])=[O:9]>>[C:1]([C:3]([N:5]([H:14])[H:15])([N:6]([H:12])[H:13])[N:7][C:2][N:8][H:16])([N:4]([H:10])[H:11])=[O:9],69.00680250001884
MR_490042_0,[C:1]([N:3]([O:6][C:2]([H:13])([H:14])[H:15])[H:7])([N:4]([N:5]([H:9])[H:10])[H:8])([H:11])[H:12]>>[C:1]([N:3]([N:4]([N:5]([H:9])[H:10])[H:8])[H:7])([O:6][C:2]([H:13])([H:14])[H:15])([H:11])[H:12],73.02719499999839
MR_511256_0,[O:1]([N:2]=[O:3])[H:4]>>[O:1]=[N:2][O:3][H:4],32.1123125000004
